US07737166B2
7-Bromo-2-tert-butyl-5-methyl-6-styryl-1,3-benzoxazole-4-carbonitrile (I-17)
Toluene (3 ml), p-toluenesulfonic acid monohydrate (1.4 mg, 7.5 μmol) were added to N-(3-bromo-6-cyano-2-hydroxy-5-methyl-4-styrylphenyl)-2,2-dimethylpropionamide (I-14) (31 mg, 75 μmol), followed by refluxing with a Dean-Stark condenser for 2.5 hours. After cooling, saturated sodium bicarbonate water (30 ml) was added to the reaction liquid, the product was extracted with ethyl acetate (30 ml×2). The organic layer was washed with saturated brine (30 ml), dried over anhydrous magnesium sulfate, concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=8:1) to obtain the entitled compound (25 mg, 84%) as a colorless solid.

reactant | p-toluenesulfonic acid monohydrate | 7.5 μmol, 1.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(3-bromo-6-cyano-2-hydroxy-5-methyl-4-styrylphenyl)-2,2-dimethylpropionamide | 75 μmol, 31 mg | BrC=1C(=C(C(=C(C1C=CC1=CC=CC=C1)C)C#N)NC(C(C)(C)C)=O)O | C21H21BrN2O2
reactant | sodium bicarbonate water | 30 ml | O.C([O-])(O)=O.[Na+]
solvent | Toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Bromo-2-tert-butyl-5-methyl-6-styryl-1,3-benzoxazole-4-carbonitrile | 25 mg, 84% | BrC=1C(=C(C(=C2N=C(OC21)C(C)(C)C)C#N)C)C=CC2=CC=CC=C2 | C21H19BrN2O
